US04971993
L-alanyl-L-proline (1.86 g, 10 mmole) was dissolved in aqueous sodium hydroxide (10 ml)-dioxane (10 ml), and dioxane (5 ml) solution of mesitylenesulfonylchloride (2.19 g, 10 mmole) was added dropwise to the solution while cooling and stirring while keeping pH value thereof to 10 to 11 with 1N aqueous sodium hydroxide. After that; the mixture was stirred further for 2 hours at room temperature. Water (20 ml) was added thereto and the mixture thus obtained was washed with diethyl ether (40 ml). The water layer was filtered and the filtrate thus obtained was adjusted to pH 2.0 with 1N hydrochloric acid while cooling and stirring to precipitate white solid material. The material was dissolved in 0.5N aqueous sodium hydroxide and the solution thus obtained was crystallized by addition of 1N aqueous hydrochloric acid to give N-mesitylenesulfonyl-L-alanyl-L-proline yield: 1.67 g, 45.3%).

reactant | L-alanyl-L-proline | 10 mmole, 1.86 g | N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C8H14N2O3
reactant | mesitylenesulfonylchloride | 10 mmole, 2.19 g | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)Cl)C | C9H11ClO2S
reactant | Water | 20 ml | O | H2O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | sodium hydroxide | 10 ml | [OH-].[Na+]
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | sodium hydroxide | 1N | [OH-].[Na+]
product | N-mesitylenesulfonyl-L-alanyl-L-proline | yield: 1.67 g, 45.3% | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1)C | C17H24N2O5S
